US07601716B2
1-(2-Chloro-3,6-difluorobenzyl)-7-(2-pyrrolidin-1-yl-pyridin-4-yl)-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine
Pyrrolidine (1 mL) was added to 1-(2-chloro-3,6-difluorobenzyl)-7-(2-chloropyridin-4-yl)-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine (32 mg). The reaction mixture was stirred at 87° C. for 72 hours and then concentrated. The residue was purified by normal phase column chromatography eluting with 5% methanol in CH2Cl2 to give the title compound as a yellow solid (35% yield). LCMS: m/z=442.21 (M+H+), 1H-NMR (CDCl3, 400 MHz) δ 2.03 (4H, m), 3.33 (2H, m), 3.53 (6H, m), 4.53 (2H, d, J=1.3 Hz), 5.06 (1H, bs), 6.43 (1H, d, J=0.8 Hz), 6.68 (1H, dd, J=5.4, 1.4 Hz), 7.02 (1H, m), 7.12 (2H, m), 7.79 (1H, d, J=1.8 Hz), 8.15 (1H, d, J=5.6 Hz).

reactant | Pyrrolidine | 1 mL | N1CCCC1 | C4H9N
reactant | 1-(2-chloro-3,6-difluorobenzyl)-7-(2-chloropyridin-4-yl)-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine | 32 mg | ClC1=C(CN2C3=C(NCC2)N=CC(=C3)C3=CC(=NC=C3)Cl)C(=CC=C1F)F | C19H14Cl2F2N4
product | 1-(2-Chloro-3,6-difluorobenzyl)-7-(2-pyrrolidin-1-yl-pyridin-4-yl)-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine | 35% yield | ClC1=C(CN2C3=C(NCC2)N=CC(=C3)C3=CC(=NC=C3)N3CCCC3)C(=CC=C1F)F | C23H22ClF2N5
